US08314092B2
Treat methyl 1-(5-methyl-2-nitrobenzyl)-4-(methylsulfanyl)-1H-pyrrole-2-carboxylate (3.49 mmoles; 1.12 g) with acetic acid (15 mL) then treat with iron, powder (10.5 mmoles; 585 mg) then slowly heat in an oil bath at 80° C. After a few hours increase the oil bath temperature to 90° C. Then leave the reaction at 60° C. for 2 days. Then concentrate to dryness to remove acetic acid then treat with EtOAc and wash through a pad of silica with more EtOAc until the orange colour stops coming off. Concentrate the red eluant to dryness then treat with methanol then re-concentrate and dissolve in DCM (20 mL) and treat with phosphoryl chloride (1.0 mL). Heat the reaction in an oil bath at 50° C. overnight. Then cool the reaction to RT and treat with ice then wash with water twice and then NaHCO3 (aq). Dry the organic layer over MgSO4, filter and concentrate to a tar. Meanwhile dissolve methyl 2,2-dimethyl-3-(piperazin-1-yl)-propanoate dihydrochloride (1.60 g, 5.86 mmoles) in water then load on to a SCX-2 cartridge (2×10 g) and wash with methanol and then elute with ammonia in methanol. Concentrate the basic solution to dryness to an oil. Then dissolve this oil in acetonitrile (50 mL) and add to a mixture of the tar and potassium carbonate (1.0 g) then heat to reflux. After 2 hours, microwave the reaction to 140° C. for 2 hours. Then filter the reaction and extract with acetonitrile and acetone. Combine and concentrate the mother liquors to dryness onto silica then purify by flash chromatography silica (40 g) (10-50% EtOAc in hexane). Take the fractions which contain clean product, combine and concentrate to yield methyl 2,2-dimethyl-3-[4-(7-methyl-2-(methylsulfanyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-propanoate (418 mg; 27% yield). MS (m/z): 441.18 (M+1).

reactant | methyl 1-(5-methyl-2-nitrobenzyl)-4-(methylsulfanyl)-1H-pyrrole-2-carboxylate | 3.49 mmoles, 1.12 g | CC=1C=CC(=C(CN2C(=CC(=C2)SC)C(=O)OC)C1)[N+](=O)[O-] | C15H16N2O4S
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | methyl 2,2-dimethyl-3-(piperazin-1-yl)-propanoate dihydrochloride | 5.86 mmoles, 1.60 g | Cl.Cl.CC(C(=O)OC)(CN1CCNCC1)C
solvent | water | O | H2O
catalyst | iron | [Fe] | Fe
product | methyl 2,2-dimethyl-3-[4-(7-methyl-2-(methylsulfanyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-propanoate | 418 mg, 27% yield | CC(C(=O)OC)(CN1CCN(CC1)C1=NC2=C(CN3C1=CC(=C3)SC)C=C(C=C2)C)C | C24H32N4O2S
